US06136823
Synthesis of Ethyl 7-Azido-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
Ethyl 1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate (1,545 mg) and sodium azide (230 mg) were added to N,N-dimethylformamide (20 ml), and the mixture was stirred overnight at 60° C. After the reaction mixture was cooled back to room temperature, ethyl acetate (100 ml) was added to the reaction mixture, and the resultant mixture was washed 3 times with water (100 ml). After an organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to obtain the title compound (1,280 mg) as an amorphous substance.

reactant | Ethyl 1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1,545 mg | C(C)(C)(C)OC(=O)NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC)F)F | C23H19ClF4N2O5
reactant | sodium azide | 230 mg | [N-]=[N+]=[N-].[Na+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 7-Azido-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1,280 mg | N(=[N+]=[N-])C1=C(C=C2C(C(=CN(C2=C1Cl)C1=C(C=C(C(=C1)NC(=O)OC(C)(C)C)F)F)C(=O)OCC)=O)F | C23H19ClF3N5O5
